US07056934B2
5-Methyl-1-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-1H-pyrazole-3-carboxylic acid ethyl ester
A solution of sodium hydride (934 mg, 23.4 mmol) in tetrahydrofuran (50 mL) was treated with ethyl 3-methylpyrazole-5-carboxylate (3.00 g, 19.5 mmol) and the reaction mixture stirred at room temperature for 30 minutes. 2-(2-Bromoethoxy)tetrahydro-2H-pyran (3.5 mL, 19.5 mmol) and lithium iodide (50 mg, 0.39 mmol) were added and the reaction mixture refluxed for 16 hours. The reaction mixture was cooled and taken up in ethyl acetate and water. The organics were separated and washed with 10% citric acid solution, water, saturated sodium hydrogencarbonate solution and brine, dried over magnesium sulphate and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol 99:1 to 95:5 to yield the title product, 4.47 g.

reactant | sodium hydride | 23.4 mmol, 934 mg | [H-].[Na+]
reactant | ethyl 3-methylpyrazole-5-carboxylate | 19.5 mmol, 3.00 g | CC1=NNC(=C1)C(=O)OCC | C7H10N2O2
reactant | 2-(2-Bromoethoxy)tetrahydro-2H-pyran | 19.5 mmol, 3.5 mL | BrCCOC1OCCCC1 | C7H13BrO2
reactant | lithium iodide | 0.39 mmol, 50 mg | [I-].[Li+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-Methyl-1-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)C)CCOC1OCCCC1 | C14H22N2O4
